US04688153
To 15.3 g of isoamyliodide and 10 g of isoquinoline placed in a four-necked flask equipped with a reflux condenser and mechanical stirrer was added 30 ml of ethanol. The mixture was reacted for 3 hours under reflux. When the reaction was completed, ethanol was removed from the reaction mixture under reduced pressure, the residue was washed 2-times with 45 ml of ethyl ether. 23.0 g of N-isoamylisoquinolinium iodide was obtained as yellow crystals. Subsequently, into a four-necked flask equipped with a reflux condenser and mechanical stirrer was placed 8 g of TCNQ and 280 ml of acetonitrile, and the TCNQ was dissolved in the acetonitrile under reflux. To the flask was added a solution of 9.6 g of N-isoamylisoquinolinium iodide in 40 ml of acetonitrile, and the mixture was reacted for 20 minutes under reflux. The reaction mixture was cooled to 5° C., separated black needles were filtered out and washed 2-times with 100 ml of methanol. 10.4 g of charge transfer complex of N-isoamylisoquinolinium TCNQ was obtained. The infra-red spectrum of the complex was shown in FIG. 3. The specific resistance of the complex measured by the same method as that described in Example 1 was 3.6 Ωcm.

reactant | TCNQ | 8 g | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
reactant | N-isoamylisoquinolinium iodide | 9.6 g | [I-].C(CC(C)C)[N+]1=CC2=CC=CC=C2C=C1
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 280 ml | C(C)#N | C2H3N
product | N-isoamylisoquinolinium TCNQ | C(CC(C)C)[N+]1=CC2=CC=CC=C2C=C1.C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | InChI=1S/C14H18N.C12H4N4/c1-12(2)7-9-15-10-8-13-5-3-4-6-14(13)11-15;13-5-11(6-14)9-1-2-10(4-3-9)12(7-15)8-16/h3-6,8,10-12H,7,9H2,1-2H3;1-4H/q+1;
